data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5257,"C1CCC2=[N:1]CCCN2CC1.CC(=C[C:2](O)([H:3])[C:4]1=[N+:5](C2=C(F)C(F)=C(F)C(F)=C2F)N=C2COC3CC4=C(C=CC=C4)C3N21)C1=CC=CC=C1.CC(=O)C(=CC1=CC=CC=C1)C(=O)C1=CC=CC=C1.F[B-](F)(F)F|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,2400,"CC(=O)C1=CC2=C(C=C1)C=C[CH+:1][C:2]2(C(C)C)[H:3].[F-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,10074,"CC(C)=C[CH2+:1].CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCCCC1=CC(O)=C(CC=C(C)C)[C:2]([OH:3])=[CH:4]1.O|(3, 2);((2, 4), 1)"
train,pmechdb_split_0,0,3214,"C1=CC([CH2-:1])=CC=N1.[CH2:2]=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10064,"CCC[CH2][Sn-:1]([CH2]CCC)([CH2]CCC)([O+](CC)CC)[CH:2]1C=CCC(C(CC)O[B-](F)(F)F)[CH+:3]1|((1, 2), 3)"
train,pmechdb_split_0,0,5590,"CC1OC1C(C)(C)[O:1][H:2].O.[Na][OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2895,"C1CC[NH2+]CC1.CN(C)C=O.CNC(=O)C(NC(=O)[O:1][CH2:2][C-:3]1C2=C(C=CC=C2)C2=C1C=CC=C2)C(C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5380,"CC1=C[CH:1]([H:2])[C+:3](C(C)C)CC1.O=P1([O-])[O][Mg][O]P(=O)([O-:4])O1|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,7596,"CC[N:1](CC)C(C)(O)O.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5146,"C1=CC(=[O:1])CCC1.C=CC[Si](C)(C)C.[Cl][Ti:2]([Cl])([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,10134,"CC(=O)O[Si-:1](C)(C)(C)[O:2]S(C)(=O)=O|((1, 2), 2)"
train,pmechdb_split_0,0,7127,"CC(=O)O.CC[O+:1](I1(OC(C)=O)(OC(C)=[O:2])OC(=O)C2=C1C=CC=C2)[H:3]|(2, 3);((3, 1), 1)"
train,pmechdb_split_0,0,6546,"O[C:1]1=[CH:2]C=C(Br)C=C1Br.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5701,"CO[C:1]1([OH:2])OCC[OH+:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,10405,"CO[CH:1]=[NH:2]|((1, 2), 2)"
train,pmechdb_split_0,0,6273,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])C2=C(C=C[CH+:4]1)C(C(F)(F)F)=CC=C2|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,5135,"C[OH:1].O=CC1(O)C[C:2]2([H:3])CC[O+:4]=[C:5]2C2=C1C=CC=C2|(1, 3);((3, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,7113,"CC(C)(C)[Si-:1](C)(C)([N+]1=CNC=C1)[Cl:2].CC1(CO)CC(C)(C)C2OC2C1=O|((1, 2), 2)"
train,pmechdb_split_0,0,8785,"C1=CC2=C(C=C1)[CH:1]([H:2])[C:3](=[N+:4]1CCCC1)C2.CC1=CC=C(S(=O)(=O)[O-])C=C1.[OH2:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2714,"C1=CC=C([CH2:1][Br:2])C=C1.[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1767,"C1=CC=C(C[CH:1]=[N+:2]2CCCCC2)C=C1.CC(=O)O.COC(=O)[CH-:3]C(=O)O.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4452,"CN[C:1]1([O-:2])CC2(C3=CC(OC)=C(OC)C=C3)CCC(=O)CC2[O:3]1.C[NH3+]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8079,"CC1(C)C2C[CH2:1][C:2]([OH:3])(C2)[C:4]12C[Br+:5]2.O=C1CCC(=O)[N-]1|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,896,"C1=CC=[N+:1]([H:2])C=C1.CC(C)=O.CC1=CC=C(S(=O)(=O)[O-])C=C1.O.OCC[O:3]C1(O)CCC(N2C=C(I)C=N2)CC1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2353,"C=CCC(OC)=[NH:1].C[OH+:2][H:3].[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6222,"CO[PH+:1](OC)[O:2][H:3].C[OH:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,8953,"C1=CC=[N:1]C=C1.CCO[S+](C)[CH2:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7892,"C#CC1([OH+:1][Li-:2][OH])CCC2(C)CCC(C)(C)C21|((2, 1), 1)"
train,pmechdb_split_0,0,664,"COC(=O)[N:1]1C2=C(C=CC=C2)[C:2]2=[C:3]1C(C)CC1CCC(=O)N(C[CH:4]=[S+:5]C3=CC=CC=C3)C12.O=C([O-])C(F)(F)F|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5208,"C1=CC=[NH+]C=C1.CC1=CC=C(S(=O)(=O)OC2CC(C)(C)CC3=CC4=COC=C4CC32[O:1][H:2])C=C1.CN(C)C1=CC=[N:3]C=C1.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5868,"CCCCCC1(C(=O)C(C)(C)O[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CCCC2=C(C=CC=C2)[C:1]1([OH:2])[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3648,"CC1=CC=C[N+:1]([CH:2]2CC(O)C(COC3CCCCC3)[O:3]2)=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7056,"COC1=C(N)C2=C(C=C1)C1CCC3(C)C(=O)CCC3C1CC2.F[B-](F)(F)F.O.[N:1](=[O:2])[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9919,"O=[N+:1]=[O:2].O=[N+]([O-])C1=C[CH:3]=[CH:4]O1|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5210,"CC1(C)C2CCC1(C)C([OH:1])C2.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,962,"CN(C)C(=O)C[C:1](C)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2686,"C=C(C1=CC=CC=C1)[O-:1].[H:2][NH3+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5764,"CCOC1C(C)C(=N[OH:1])C1(C)C.O=[N+]([O-])C1=CC=C([C:2](Cl)=[O:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1885,"C[S+:1]([O:2][CH2:3][H:4])[CH2-:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,3572,"C=C[CH:1]1C[Br+:2]1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9362,"CO[C:1](O)=[OH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1071,"O=S(=O)(O)[O-:1].OC(C1CCCCC1)=[O+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3110,"COC1=CC=CC(CCNC(C)=[O+][P:1](Cl)(Cl)([O-:2])[Cl:3])=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3866,"CCC[CH2:1][Br:2].[Li+].[Li][O]C1C2=C(C=CC=C2)C([C-:3]2SCCCS2)C1(C)C|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1787,"C[C:1]([O:2][H:3])=[O:4].O=C(O)C1CCCCN1C(CCC[N+](=O)[O-])[OH:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
